US04801590
Methyl 3-methyl-4-cyano-4-(2-cyano-3-pyridyl)butyrate
A catalytic amount of a 5% strength methanolic sodium methylate solution is added to a mixture of 4.9 g (0.03 mol) of 2-cyano-3-pyridylacetonitrile and 3.4 g (0.03 mol) of methyl crotonate with stirring at a rate such that the reaction temperature remains below 40° C. When the evolution of heat has subsided, the mixture is neutralized using dilute acetic acid. The mixture is extracted with chloroform and the organic phase is dried over MgSO4, filtered and concentrated in vacuo. The residue is purified over a silica gel column using chloroform as eluent.

reactant | sodium methylate | C[O-].[Na+]
reactant | 2-cyano-3-pyridylacetonitrile | 0.03 mol, 4.9 g | C(#N)C1=NC=CC=C1CC#N | C8H5N3
reactant | methyl crotonate | 0.03 mol, 3.4 g | C(\C=C\C)(=O)OC | C5H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Methyl 3-methyl-4-cyano-4-(2-cyano-3-pyridyl)butyrate | CC(CC(=O)OC)C(C=1C(=NC=CC1)C#N)C#N | C13H13N3O2
